US05389291
1A 1-(trans-4-Pentylcyclohexyl)-4-(6-chloropyridin-2-yl)benzene
A mixture of 0.23 mol of 4-(trans-4-pentylcyclohexyl)phenylboric acid, 0.23 mol of 2,6-dichloropyridine, 5 mmol of TPP, 230 ml of a 2 molar sodium carbonate solution and 400 ml of toluene are heated at the boil for 1 hour. The reaction mixture is cooled, and 200 ml of hexane and 200 ml of water are added. The organic phase is separated off, the solvent is removed by evaporation, and the pure product is obtained by chromatography on silica gel using toluene/hexane 3:1 as the eluent.

reactant | 4-(trans-4-pentylcyclohexyl)phenylboric acid | 0.23 mol | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OB(O)O | C17H27BO3
reactant | 2,6-dichloropyridine | 0.23 mol | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | sodium carbonate | 2 molar | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
solvent | water | 200 ml | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-(trans-4-Pentylcyclohexyl)-4-(6-chloropyridin-2-yl)benzene | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=NC(=CC=C1)Cl | C22H28ClN
